US04504478
To a solution of 3-chloro-7-(imidazol-2-yl)aminocephem-4-carboxylic acid trifluoroacetate as a mixture of delta-2 and delta-3 isomers (157 mg.) in acetic acid (4 ml.) cooled to 10° was dropwise aded peracetic acid (960 μl.) The temperature was allowed to rise to ambient temperature and the mixture was stirred for 2.5 hours. The suspension was filtered to obtain a white solid (27 mg.). The filtrate was evaporated in vacuo and the residue taken up in the minimum amount of a mixture of methanol and CH2Cl2. There was thus obtained a suspension which afforded a crystalline solid on filtration. The solids were combined to give 3-chloro-7-(imidazol-2-yl)aminoceph-3-em-4-carboxylic acid as a mixture of 1α and 1β oxides (61 mg.) containing 0.17 moles of trifluoroacetic acid and having the following n.m.r. spectrum in d6 dimethyl sulphoxide+trifluoroacetic acid: 4.0 and 4.15 (s, 2H); 4.95 and 5.1 (d, 1H);5.7 and 5.8 (d, 1H); 7.05 (s, 2H).

reactant | 3-chloro-7-(imidazol-2-yl)aminocephem-4-carboxylic acid trifluoroacetate | FC(C(=O)O)(F)F.ClC=1CS[C@H]2N(C1C(=O)O)C(C2NC=2NC=CN2)=O
reactant | peracetic acid | 960 μl | C(C)(=O)OO | C2H4O3
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
product | 3-chloro-7-(imidazol-2-yl)aminoceph-3-em-4-carboxylic acid | ClC=1CS[C@H]2N(C1C(=O)O)C(C2NC=2NC=CN2)=O | C10H9ClN4O3S
